US04472578
An excess amount of diazomethane ethereal solution was added to a suspension of 640 mg of ethyl 5-hydroxybenzo[a]-phenazine-6-carboxylate in 8 ml of methanol and the mixture was left to stand overnight. The solvent was evaporated off under reduced pressure and the residual powder was recrystallized from ethanol to give 626 mg (91.5% yield) of ethyl 5-methoxybenzo[a]phenazine-6-carboxylate as orange prisms, m.p. 155°-157° C., Anal. Calcd. (%) for C20H16N2O3 : C, 72.28; H, 4.85; N, 8.43; Found: C, 72.41; H, 4.66; N, 8.18

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | ethyl 5-hydroxybenzo[a]-phenazine-6-carboxylate | 640 mg | OC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)OCC)C=CC=C2 | C19H14N2O3
solvent | methanol | 8 ml | CO | CH4O
product | ethyl 5-methoxybenzo[a]phenazine-6-carboxylate | 626 mg, 91.5% yield | COC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)OCC)C=CC=C2 | C20H16N2O3
